US07132426B2
Preparation of Ethyl-[1-(2-fluoro-4-methanesulfonylphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl)amine (Compound A126)
A mixture of ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-ylmethyl-amine hydrochloride salt (30 mg, 0.064 mmol), 2-bromopyridine (0.62 μL, 0.64 mmol), and triethylamine (26 μL, 0.19 mmol) in DMF (1.0 mL) was heated under microwave irradiation for 30 minutes at 165° C. The crude mixture was purified by HPLC to provide compound A126 as a white solid (5 mg, 15%). Exact mass calculated for C25H28FN7O2S 509.2, found 510.5 (MH+).

reactant | ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-ylmethyl-amine hydrochloride salt | 0.064 mmol, 30 mg | Cl.C(C)N(CC1CCNCC1)C1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F
reactant | 2-bromopyridine | 0.64 mmol, 0.62 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | triethylamine | 0.19 mmol, 26 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | Ethyl-[1-(2-fluoro-4-methanesulfonylphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl)amine | 5 mg, 15% | C(C)N(CC1CCN(CC1)C1=NC=CC=C1)C1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C25H28FN7O2S
